US07601722B2
In an analogous manner to general procedure V, 1-[3(bromomethyl)benzyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.08 g, 0.18 mmol) was treated with methylamine (10 mL) to provide 0.05 g (71%) of 1-(3-{[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]methyl}phenyl)-N-methylmethanamine. HRMS: calcd for C21H20FN3O2S+H+, 398.13330; found (ESI, [M+H]+), 398.1337; HPLC purity 95.4% at 210-370 nm, 7.7 min.; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. Ph=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 1-[3(bromomethyl)benzyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.18 mmol, 0.08 g | BrCC=1C=C(CN2S(N(C3=C2C=CC=C3)C3=C(C=CC=C3)F)(=O)=O)C=CC1 | C20H16BrFN2O2S
reactant | methylamine | 10 mL | CN | CH5N
product | 1-(3-{[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]methyl}phenyl)-N-methylmethanamine | 0.05 g, 71% | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CC=2C=C(C=CC2)CNC)(=O)=O | C21H20FN3O2S
